US07199120B2
2-(Methylsulfanyl)-4-{[2-(methylsulfanyl)-4-pyrimidinyl]ethynyl}pyrimidine (0.1 g, 0.37 mmol) was dissolved in acetonitrile (5 mL). To this solution was added 1-aminopyridinium iodide (81 mg, 0.37 mmol) and 1,8-diazobicyclo[5.4.0]undec-7-ene (0.056 mL, 0.37 mmol) and the resulting mixture was stirred at room temperature overnight The resulting reddish suspension was concentrated in vacuo. Ethyl acetate and water were added to this residue. The phases were separated and the aqueous phase extracted with additional ethyl acetate. The organics were combined, dried over magnesium sulfate, filtered and concentrated. Purification by silica gel chromatography (1:1 ethyl acetate:hexane) gave 95 mg (71%) of 2,3-bis[2-(methylsulfanyl)-4-pyrimidinyl]pyrazolo[1,5-a]pyridine as a solid. 1H NMR (CDCl3): δ 8.64 (d, 1H), 8.53 (d, 1H), 8.41 (d, 1H), 8.31 (d, 1H), 7.56 (d, 1H), 7.37 (t, 1H), 7.13 (d, 1H), 7.00 (t, 1H), 2.59 (s, 3H), 2.37 (s, 3H); MS m/z 367 (M+1).

reactant | 2-(Methylsulfanyl)-4-{[2-(methylsulfanyl)-4-pyrimidinyl]ethynyl}pyrimidine | 0.37 mmol, 0.1 g | CSC1=NC=CC(=N1)C#CC1=NC(=NC=C1)SC | C12H10N4S2
reactant | 1-aminopyridinium iodide | 0.37 mmol, 81 mg | [I-].N[N+]1=CC=CC=C1
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 2,3-bis[2-(methylsulfanyl)-4-pyrimidinyl]pyrazolo[1,5-a]pyridine | 95 mg, 71% | CSC1=NC=CC(=N1)C1=NN2C(C=CC=C2)=C1C1=NC(=NC=C1)SC | C17H14N6S2
